US06593333B1
4-[4-Fluoro-3-(methoxycarbonylamino)anilino]-6,7-dimethoxyquinazoline
Methyl chloroformate (0.048 ml) was added to a suspension of 4-(3-amino-4-fluoroanilino)-6,7-dimethoxyquinazoline (161 mg) and triethylamine (0.14 ml) in dry methylene chloride (3.5 ml) and the resulting mixture was stirred at ambient temperature for 18 hours. Methylene chloride (100 ml) was added and the mixture washed with water and brine, dried over magnesium sulphate, filtered and evaporated to dryness. The residue was purified by silica column chromatography, eluting with 3% methanol in methylene chloride to yield the title compound as a solid (16 mg, 8.4%); NMR: 3.66 (s, 3H), 3.92 (s, 3H), 3.96 (s, 3H), 7.16 (s, 1H), 7.22 (t, 1H), 7.57 (m, 1H), 7.82 (s, 1H), 8.01 (m, 1H), 8.42 (s, 1H), 9.34 (s, 1H), 9.47 (s, 1H); m/s: M+H+ 373.

reactant | Methyl chloroformate | 0.048 ml | ClC(=O)OC | C2H3ClO2
reactant | 4-(3-amino-4-fluoroanilino)-6,7-dimethoxyquinazoline | 161 mg | NC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1F | C16H15FN4O2
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-Fluoro-3-(methoxycarbonylamino)anilino]-6,7-dimethoxyquinazoline | 16 mg, 8.4% | FC1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)NC(=O)OC | C18H17FN4O4
